US08030311B2
N-[5-tert-Butyl-2-(3-morpholin-4-ylmethyl-phenyl)-2H-pyrazol-3-yl]-2-(4-imidazo[4,5-b]pyridin-3-yl-phenyl)acetamide
The title compound is prepared as described in Example 28 but using 2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetic acid and 5-tert-butyl-2-(3-morpholin-4-ylmethyl-phenyl)-2H-pyrazol-3-ylamine. Title compound: ES-MS: 550.41 [M-H]+; RT=1.40 min (HPLC System 3).

reactant | 2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)CC(=O)O | C14H11N3O2
reactant | 5-tert-butyl-2-(3-morpholin-4-ylmethyl-phenyl)-2H-pyrazol-3-ylamine | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)CN1CCOCC1)N | C18H26N4O
product | N-[5-tert-Butyl-2-(3-morpholin-4-ylmethyl-phenyl)-2H-pyrazol-3-yl]-2-(4-imidazo[4,5-b]pyridin-3-yl-phenyl)acetamide | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)CN1CCOCC1)NC(CC1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)=O | C32H35N7O2
